US08912209B2
Intermediate 7: [2′-(1-tert-Butoxycarbonylamino-ethyl)-5′-(pyridin-4-ylcarbamoyl)-biphenyl-3-yloxy]-acetic acid
To a solution of {1-[2-Bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester (0.48 g) in a mixture of toluene/ethanol: 5/3 (12 ml) were added 3-phenoxy-acetic acid benzyl ester boronic acid (2 eq.), a solution of Na2CO3 (4 eq.) in water (4 ml) and Pd tetrakis (0.06 eq.). The reaction mixture was heated under reflux conditions for 2 hours. The reaction mixture was cooled to RT and filtered over celite. The celite residue was washed with EtOAc and EtOH. The solvent was removed under reduced pressure and the residue was taken up in DCM. The precipitate was filtered, washed with DCM and dried. The compound was purified by column chromatography (silicagel, DCM/MeOH gradient).

reactant | {1-[2-Bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 0.48 g | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)Br)=O | C19H22BrN3O3
reactant | Na2CO3 | 4 eq. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
solvent | water | 4 ml | O | H2O
catalyst | Pd tetrakis | 0.06 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [2′-(1-tert-Butoxycarbonylamino-ethyl)-5′-(pyridin-4-ylcarbamoyl)-biphenyl-3-yloxy]-acetic acid | C(C)(C)(C)OC(=O)NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)C1=CC(=CC=C1)OCC(=O)O | C27H29N3O6
